US05329042
In a stream of nitrogen gas, 3.33 g of (1S, 6R)-1-methoxycarbonyl-6-methylcyclohex-3-ene was dissolved in 100 ml of cyclohexane, and the solution was added to a aqueous solution prepared by dissolving 13.5 g of potassium permanganate and 1.39 g of tetrabutylammonium bromide in 100 ml of H2O. The mixture was vigorously stirred for 4 hours at room temperature. To the reaction mixture was added 10 g of sodium hydrogen-sulfate, and the precipitate was filtered off. After the cyclohexane layer of the filtration was separated, and the water layer was adjusted to have a pH of 3 by concentrated hydrochloric acid, the water layer was extracted by ethyl acetate-tetrahydrofuran (1:1). The cyclohexane layer and the extraction were combined, and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under a reduced pressure. To the residue, 12.5 ml of acetic anhydride and 0.825 g of sodium acetate were added, and the mixture was stirred for 1 hour at 130° C. After being cooled by air, the precipitate was filtered off, and the filtrate was concentrated under a reduced pressure. The residue was taken up into ethyl acetate, and the insoluble material was filtered off, followed by concentration of the filtrate under a reduced pressure. The residue was distilled under a reduced pressure, and thus 1.35 g of (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone was obtained.

reactant | (1S, 6R)-1-methoxycarbonyl-6-methylcyclohex-3-ene | 3.33 g | COC(=O)[C@H]1CC=CC[C@H]1C | C9H14O2
reactant | potassium permanganate | 13.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydrogen-sulfate | 10 g | S(=O)(=O)(O)[O-].[Na+]
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
catalyst | tetrabutylammonium bromide | 1.39 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | 100 ml | O | H2O
product | (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone | 1.35 g, Yield: 40.3% | COC(=O)[C@H]1CC(C[C@H]1C)=O | C8H12O3
